US08957093B2
Step 6: Ethyl 1-((2′-(tert-butoxycarbonyl)biphenyl-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylate
To a mixture of ethyl 2,3-dimethyl-1H-indole-5-carboxylate (1.493 g, 6.87 mmol) in dry DMF (10 mL) at 0° C. under argon was added NaH (0.3 g, 60% dispersion in mineral oil, 7.56 mmol) in portions. The reaction mixture was stirred at rt for 30 min and then re-cooled to 0° C. Tert-butyl 4′-(bromomethyl)biphenyl-2-carboxylate (2.62 g, 7.56 mmol) in DMF (2 mL) was slowly added. The reaction mixture was stirred at rt for another 1 h. The completion of the reaction was monitored by anal. HPLC. The reaction was quenched with MeOH, and then the solvent was removed in vacuo. The crude was dissolved in AcOEt, washed with saturated aqueous NaHCO3, brine and dried over Na2 SO4 and filtered. The filtrate was evaporated in vacuo to obtain the crude which was purified by flash chromatography (AcOEt/Hex 10→100%) to obtain the title compound. ESI-MS (m/z): 484 [M+H]+.

reactant | ethyl 2,3-dimethyl-1H-indole-5-carboxylate | 6.87 mmol, 1.493 g | CC=1NC2=CC=C(C=C2C1C)C(=O)OCC | C13H15NO2
reactant | NaH | 7.56 mmol, 0.3 g | [H-].[Na+]
reactant | Tert-butyl 4′-(bromomethyl)biphenyl-2-carboxylate | 7.56 mmol, 2.62 g | BrCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C | C18H19BrO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | Ethyl 1-((2′-(tert-butoxycarbonyl)biphenyl-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylate | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)C(=O)OCC)C)C | C31H33NO4
